US07569583B2
5-Chloro-1′,2′,3′,6′-tetrahydro-[2,4′]bipyridinyl
Butyllithium (15% in hexane; 7.6 ml) was added dropwise to a solution of 2-bromo-5-chloropyridine (2.0 g) in diethyl ether (50 ml) at −78° C. and, after one hour, a solution of N-tert-butoxycarbonyl-4-piperidinone (2.1 g) in diethyl ether (10 ml) was added dropwise. After 30 minutes, water was cautiously added, and the mixture was extracted with ethyl acetate. The organic phase was dried over sodium sulfate, filtered and concentrated. The residue was treated with thionyl chloride (3 g) for 24 hours, and the concentrated reaction solution was purified by preparative HPLC. The product with the molecular weight of 194.67 (C10H11ClN2); MS (ESI): 195 (M+H+) was obtained in this way.

reactant | Butyllithium | 7.6 ml | C(CCC)[Li]
reactant | 2-bromo-5-chloropyridine | 2.0 g | BrC1=NC=C(C=C1)Cl | C5H3BrClN
reactant | N-tert-butoxycarbonyl-4-piperidinone | 2.1 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | water | O | H2O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | 5-Chloro-1′,2′,3′,6′-tetrahydro-[2,4′]bipyridinyl | ClC=1C=CC(=NC1)C=1CCNCC1 | C10H11ClN2
